US08039495B2
3-(4′,5′-Difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-benzoic acid methyl ester (6.5 g, 16.92 mmol) and 2N KOH (33.84 mL, 67.68 mmol) in 100 mL MeOH were reacted as above to yield 6.1 g (97.4) of 3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-benzoic acid. LC-MS (ES) calculated for C21H16F2O4, 370.36; found m/z 369 [M−H]−.

reactant | 3-(4′,5′-Difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-benzoic acid methyl ester | 16.92 mmol, 6.5 g | COC(C1=CC(=CC=C1)COC1=CC=C(C=C1)C1=C(C=C(C(=C1)F)F)OC)=O | C22H18F2O4
reactant | KOH | 67.68 mmol, 2N, 33.84 mL | [OH-].[K+]
solvent | MeOH | 100 mL | CO | CH4O
product | 3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-benzoic acid | 6.1 g | FC1=CC(=C(C=C1F)C1=CC=C(C=C1)OCC=1C=C(C(=O)O)C=CC1)OC | C21H16F2O4
